US06825191B2
Synthesis of 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-8-hydroxy-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on
79 mg (0.15 mmol) of 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-8-methoxy-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on was dissolved in 10 ml of dichloromethane. 1.0 ml of borane tribromide was added to the obtained solution, and they were stirred at room temperature for 6 hours. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was treated in the same manner as in step 3 in Example 1 to obtain the title compound.

reactant | 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-8-methoxy-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on | 0.15 mmol, 79 mg | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)OC)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C29H26ClN3O4
reactant | borane tribromide | 1.0 ml | [Br-].[Br-].[Br-].B
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-8-hydroxy-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)O)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C28H24ClN3O4
